US05661160
Synthesis of 1-[2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid pyrrolidine-amide
Prepare by the method of example 3.3 using 2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl-methanesulfonate (5 mmol) and 4-phenyl-piperidine-4-carboxylic acid pyrrolidine-amide hydrochloride (7.5 mmol, 1.5 eq.). Chromatograph on silica gel to give the title compound.

reactant | 2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl-methanesulfonate | 5 mmol | ClC=1C=C(C=CC1Cl)C1(CN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)CCCS(=O)(=O)[O-]
reactant | 4-phenyl-piperidine-4-carboxylic acid pyrrolidine-amide hydrochloride | 7.5 mmol, 1.5 eq. | Cl.N1(CCCC1)C(=O)N.C1(=CC=CC=C1)C1(CCNCC1)C(=O)O
product | 1-[2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid pyrrolidine-amide | N1(CCCC1)C(=O)N.ClC=1C=C(C=CC1Cl)C1(CN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)CCN1CCC(CC1)(C(=O)O)C1=CC=CC=C1 | InChI=1S/C34H38Cl2N2O6.C5H10N2O/c1-42-28-19-23(20-29(43-2)30(28)44-3)31(39)38-18-12-33(22-38,25-9-10-26(35)27(36)21-25)11-15-37-16-13-34(14-17-37,32(40)41)24-7-5-4-6-8-24;6-5(8)7-3-1-2-4-7/h4-10,19-21H,11-18,22H2,1-3H3,(H,40,41);1-4H2,(H2,6,8)
